US04192796
Preparation of 3,5-Di-tert.-butyl-4-hydroxyphenyl Bis(2-cyanoethyl)phosphinate
2,6-Di-tert.-butyl-1,4-benzoquinone (11.0 grams; 0.05 mole) and bis-(2-cyanoethyl)phosphine oxide (8.0 grams; 0.05 mole) are dissolved in 20 mls. of N,N-dimethylacetamide and the solution is heated at reflux for 2 hours. The solution is then cooled to ambient conditions and drowned in water to precipitate a pale yellow oil which is subsequently separated, washed well with water, and extracted with diethyl ether. The ethereal extract is then stripped of diethyl ether and the residue is dried in vacuo at 50° C. to obtain 7.56 grams of a yellow oil which has an infrared absorption spectrum consistent with the desired product.

reactant | 2,6-Di-tert.-butyl-1,4-benzoquinone | 0.05 mole, 11.0 grams | C(C)(C)(C)C=1C(C(=CC(C1)=O)C(C)(C)C)=O | C14H20O2
reactant | bis-(2-cyanoethyl)phosphine oxide | 0.05 mole, 8.0 grams | C(#N)CCP(CCC#N)=O | C6H9N2OP
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 3,5-Di-tert.-butyl-4-hydroxyphenyl Bis(2-cyanoethyl)phosphinate | 7.56 grams | C(#N)CCP(OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)(=O)CCC#N | C20H29N2O3P
